US07338959B2
(4-{4-[Methyl-(1-methyl-2-phenethylamino-1H-benzoimidazol-5-yl)-amino]-pyrimidin-2-ylamino}-phenyl)-methanesulfonamide hydrochloride
The title compound was prepared following the procedure of example 1 with N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-phenethyl-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and (4-amino-phenyl)-methanesulfonamide (46 mg, 0.25 mmol) as a white solid (37 mg, 26%). 1H NMR (300 MHz, d6-DMSO) δ 9.17 (s, 1H), 7.76-7.78 (m, 3H), 7.21-7.34 (m, 8H), 7.19 (s, 1H), 7.13 (d, J=1.8 Hz, 1H), 7.00 (br s, 1H), 6.84 (dd, J=8.1 and 1.5 Hz, 1H), 6.77 (s, 2H), 5.63 (d, J=6.0 Hz, 1H), 4.16 (s, 2H), 3.54-3.61 (m, 2H), 3.52 (s, 3H), 3.45 (s, 3H), 2.92-2.97 (m, 2H) ppm. MS (ESI) m/z=543 [M+H]+.

reactant | N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-phenethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCCC2=CC=CC=C2)C)C=C1)C | C21H21ClN6
reactant | (4-amino-phenyl)-methanesulfonamide | 0.25 mmol, 46 mg | NC1=CC=C(C=C1)CS(=O)(=O)N | C7H10N2O2S
product | (4-{4-[Methyl-(1-methyl-2-phenethylamino-1H-benzoimidazol-5-yl)-amino]-pyrimidin-2-ylamino}-phenyl)-methanesulfonamide hydrochloride | Cl.CN(C1=NC(=NC=C1)NC1=CC=C(C=C1)CS(=O)(=O)N)C1=CC2=C(N(C(=N2)NCCC2=CC=CC=C2)C)C=C1 | InChI=1S/C28H30N8O2S.ClH/c1-35(26-15-17-30-27(34-26)32-22-10-8-21(9-11-22)19-39(29,37)38)23-12-13-25-24(18-23)33-28(36(25)2)31-16-14-20-6-4-3-5-7-20;/h3-13,15,17-18H,14,16,19H2,1-2H3,(H,31,33)(H2,29,37,38)(H,30,32,34);1H
